* D:\AUPSCRepo\LTSpice\auspc_v3_ltc6228.asc
V4 input 0 SINE(0 1u 30k) AC 1u
R5 out2 N004 70k
V1 N001 0 3
V2 0 N003 3
R1 N004 0 50
R3 0 N002 50
R4 N002 out1 70k
R7 out_sum out1 50
R8 out_sum out2 50
R9 out_sum 0 100k
R6 NC_01 0 500
XU1 input N004 out2 N001 N003 NC_02 LTC6228
XU2 input N002 out1 N001 N003 NC_03 LTC6228
.ac dec 100 100 10Meg
;tran 0 100us 100ns
.meas AC out1_max MAX MAG(V(out1))
;noise V(out_sum) V4 dec 1000 1 120k
.meas AC f_3db when MAG(V(out1)=out1_max/sqrt(2))
.lib LTC1.lib
.backanno
.end
